US08633313B2
To a stirring mixture of 2-(3-fluorophenyl)-1,5-naphthyridine-3-carbaldehyde (0.0293 g, 0.116 mmol) in tetrahydrofuran (2.00 mL, 0.116 mmol) was added methylmagnesium bromide 3M in diethyl ether (0.0581 mL, 0.174 mmol) dropwise at 0° C. and the mixture was allowed to warm to room temperature with stirring. After 2.5 h, the reaction was quenched with saturated aq. NH4Cl (20 mL) and extracted with EtOAc (30 mL×2). The combined organic layers were washed with brine (30 mL×3), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 40 g of Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 14 min and then 100% isocratic of EtOAc for 10 min as eluent to give 1-(2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)ethanol as a colorless syrup: LC-MS (ESI) m/z 268.9 [M+H]+.

reactant | 2-(3-fluorophenyl)-1,5-naphthyridine-3-carbaldehyde | 0.116 mmol, 0.0293 g | FC=1C=C(C=CC1)C1=NC2=CC=CN=C2C=C1C=O | C15H9FN2O
reactant | tetrahydrofuran | 0.116 mmol, 2.00 mL | O1CCCC1 | C4H8O
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | diethyl ether | 0.174 mmol, 0.0581 mL | C(C)OCC | C4H10O
product | 1-(2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)ethanol | FC=1C=C(C=CC1)C1=NC2=CC=CN=C2C=C1C(C)O | C16H13FN2O
